US06235731B1
3) Synthesis of N-[2-(hydroxymethyl)benzyl]phthalimide
To a solution of 15.021 g (39.368 mM) of N-[2-(tert-butyldimethylsilyloxymethyl)benzyl]phthalimide in 50 ml of methanol was added 5 ml of concentrated hydrochloric acid at room temperature and the mixture was stirred at the prevailing temperature for 10 minutes. This reaction mixture was poured in water-diethyl ether and the resulting precipitate was recovered, rinsed serially with water and diethyl ether, and dried to provide the title compound.

reactant | N-[2-(tert-butyldimethylsilyloxymethyl)benzyl]phthalimide | 39.368 mM, 15.021 g | [Si](C)(C)(C(C)(C)C)OCC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C22H27NO3Si
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water diethyl ether | O.C(C)OCC
product | N-[2-(hydroxymethyl)benzyl]phthalimide | OCC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C16H13NO3
